US07291619B2
To a solution of piperazine (13.7 g, 159 mmol) in 20 mL DMSO was added 2-fluoro-4-trifluoromethylbenzonitrile (10 g, 52.9 mmol). After stirring overnight, the solution was diluted with 200 mL of EtOAc, washed with water and brine, and then dried (Na2SO4), filtered and concentrated to afford about 13.0 g (51.1 mmol, 96%) of 4-(2-cyano-5-trifluoromethyl-phenyl)piperazine. LRMS (ESI+): 256.1 [M+1]. The tide compound was prepared from 4-(2-cyano-5-trifluoromethyl-phenyl)piperazine in the same manner as described in Preparation 67A except that dimethyl amine was used to displace the mesylate. LRMS (ESI+): 388.1 [M+1]

reactant | piperazine | 159 mmol, 13.7 g | N1CCNCC1 | C4H10N2
reactant | 2-fluoro-4-trifluoromethylbenzonitrile | 52.9 mmol, 10 g | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-(2-cyano-5-trifluoromethyl-phenyl)piperazine | 51.1 mmol, about 13.0 g, 96% | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N1CCNCC1 | C12H12F3N3
